US05969139
3-Amino-5,5-dimethyl-2-cyclohexen-1-one was reacted with 3-phenoxybenzaldehyde in an analogous manner to that described in Example 1 to give 3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-9-(3-phenoxyphenyl)-1,8(2H,5H)-acridinedione. Crystallization from dimethylformamide/water gave a yellow crystalline solid of melting point 205-207° C.

reactant | 3-Amino-5,5-dimethyl-2-cyclohexen-1-one | NC1=CC(CC(C1)(C)C)=O | C8H13NO
reactant | 3-phenoxybenzaldehyde | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
product | 3,4,6,7,9,10-hexahydro-3,3,6,6-tetramethyl-9-(3-phenoxyphenyl)-1,8(2H,5H)-acridinedione | CC1(CC(C=2C(C=3C(CC(CC3NC2C1)(C)C)=O)C1=CC(=CC=C1)OC1=CC=CC=C1)=O)C | C29H31NO3
